US05668161
Preparation of 2-(2,4-Difluorophenyl)-3-(4-methylthiophenyl)propenoic Acid
A mixture of acetic anhydride (50 mL), 4-(methylthio)benzaldehyde (3.75 g, 24.6 mmol), 2,4-difluorophenylacetic acid (4.41 g, 24.6 mmol), and triethylamine (2.80 g, 27.7 mmol) was heated to reflux for 3.5 hours. The reaction was cooled to 90° C., and water (100 mL) was added through an addition funnel. A yellow oil formed that solidified upon stirring. The solid was collected by filtration, and dissolved in ethyl acetate, dried over anhydrous MgSO4, filtered and concentrated in vacuo. The solid thus obtained was recrystallized from toluene to give the desired acid (3.18 g, 42%): mp 165°-171° C. 1H NMR (acetone-d6) 300 MHz 7.95 (s,1H), 7.08-7.18 (m, 7H), 2.47 and 2.31 (s, 3H); 19F NMR (acetone-d6) -110.81 (m) -111.75 (m). Mass spectrum: M+H=306.

reactant | acetic anhydride | 50 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-(methylthio)benzaldehyde | 24.6 mmol, 3.75 g | CSC1=CC=C(C=O)C=C1 | C8H8OS
reactant | 2,4-difluorophenylacetic acid | 24.6 mmol, 4.41 g | FC1=C(C=CC(=C1)F)CC(=O)O | C8H6F2O2
reactant | triethylamine | 27.7 mmol, 2.80 g | C(C)N(CC)CC | C6H15N
solvent | water | 100 mL | O | H2O
product | 2-(2,4-Difluorophenyl)-3-(4-methylthiophenyl)propenoic Acid | 3.18 g, 42% | FC1=C(C=CC(=C1)F)C(C(=O)O)=CC1=CC=C(C=C1)SC | C16H12F2O2S
